US05486527
Ethyl 1-(3,4-methylenedioxybenzyl)piperidine-4-acetate
A mixture of ethyl piperidine-4-acetate (0.34 g, 2.0 mmol), 3,4-methylenedioxybenzyl chloride (0.34 g, 2.0 mmol), sodium carbonate (1.0 g) and sodium iodide (0.10 g) in acetonitrile (30 ml) was heated under reflux for 16 hours and evaporated. The residue was partitioned between ethyl acetate and water and the organic layer was washed with water, dried over magnesium sulphate and evaporated. The residue was purified by chromatography on SiO2 using dichloromethane plus 0-20% ethyl acetate as eluant. Appropriate fractions were combined and evaporated to give the title compound (0.52 g) as a colourless oil which was characterised by its 1H-NMR spectrum.

reactant | ethyl piperidine-4-acetate | 2.0 mmol, 0.34 g | N1CCC(CC1)CC(=O)OCC | C9H17NO2
reactant | 3,4-methylenedioxybenzyl chloride | 2.0 mmol, 0.34 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | sodium carbonate | 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.10 g | [I-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Ethyl 1-(3,4-methylenedioxybenzyl)piperidine-4-acetate | 0.52 g | C1OC=2C=C(CN3CCC(CC3)CC(=O)OCC)C=CC2O1 | C17H23NO4
